US07211573B2
To a solution of 0.50 g (1.61 mmol) ((6R,7S)-2-fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester in 5 ml dimethylformamide were added at room temperature 0.57 g (2.42 mmol) 2,2,2-trifluorethyl triflate and 0.80 g (2.43 mmol) cesium carbonate. Stirring was continued for 5 hours. Extraction with ethylacetate/water and chromatography on silicagel with heptane to ethylacetate/heptane 2:8 yielded 0.55 g (87%) [(6R,7S)-2-fluoro-6-methyl-8-oxo-9-(2,2,2-trifluoro-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester, MS m/e (%): 415.3 (M+Na+, 100), 393.2 (M+H+, 8), 293.1 (43).

reactant | ((6R,7S)-2-fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 1.61 mmol, 0.50 g | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(NC1=O)C=C(C=C2)F)C)=O | C15H19FN2O4
reactant | 2,2,2-trifluorethyl triflate | 2.42 mmol, 0.57 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | cesium carbonate | 2.43 mmol, 0.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [(6R,7S)-2-fluoro-6-methyl-8-oxo-9-(2,2,2-trifluoro-ethyl)-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl]-carbamic acid tert-butyl ester | 0.55 g, 87% | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(N(C1=O)CC(F)(F)F)C=C(C=C2)F)C)=O | C17H20F4N2O4
